US06683056B2
A 60% dispersion of NaH/mineral oil (144 mg, 3.6 mmol) under Ar was added dropwise to a stirred solution of phenol (284 mg, 3 mmol) in PhMe (15 mL). After 10 min, p-ethylbenzyl chloride (1.23 g, 5.3 mmol) in PhMe (2 mL) was added prior to heating the reaction for 6 hr at 80°. After cooling, the volatiles were removed using a rotary evaporator and the residue dissolved in 15 mL of MeOH. The MeOH solution was extracted 4× with hexane prior to concentration. The resulting residue was dissolved in 1:1 EtOAc/H2O (100 mL), the pH adjusted to 5 and the two phases separated. After drying over Na2SO4 and removal of the EtOAc, 390 mg of crude title 2-(4′-ethylbenzyl)phenol was obtained. Prep HPLC yielded 275 mg of clean 2-(4′-ethylbenzyl)phenol.

reactant | NaH | [H-].[Na+]
reactant | phenol | 3 mmol, 284 mg | C1(=CC=CC=C1)O | C6H6O
reactant | p-ethylbenzyl chloride | 5.3 mmol, 1.23 g | C(C)C1=CC=C(CCl)C=C1 | C9H11Cl
solvent | PhMe | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | PhMe | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4′-ethylbenzyl)phenol | 390 mg | C(C)C1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C15H16O
